US09359381B2
Step 3: 9,9-Difluoro-5-(3-fluorophenyl)-1,3-dimethyl-10-(5-methylfuran-2-yl)-7,8,9,10-tetrahydropyrimido[4,5-a]indolizine-2,4(1H,3H)-dione
Gold (III) chloride (4 mg, 0.012 mmol) was added to a suspension of 9,9-difluoro-5-(3-fluorophenyl)-10-hydroxy-1,3-dimethyl-7,8,9,10-tetrahydropyrimido[4,5-a]indolizine-2,4(1H,3H)-dione (47 mg, 0.12 mmol) and 2-methylfuran (15 μL, 0.16 mmol) in acetonitrile (1 mL). The mixture was stirred at room temperature for 1 hour. The mixture was evaporated under vacuum, the residue was dissolved in DCM (5 mL) and washed with water (5 mL). The organic phase was passed through a hydrophobic frit evaporated under vacuum. Purification by mass directed HPLC using the following conditions afforded the title compound.

reactant | 9,9-difluoro-5-(3-fluorophenyl)-10-hydroxy-1,3-dimethyl-7,8,9,10-tetrahydropyrimido[4,5-a]indolizine-2,4(1H,3H)-dione | 0.12 mmol, 47 mg | FC1(CCN2C(=C3C(=C2C1O)N(C(N(C3=O)C)=O)C)C3=CC(=CC=C3)F)F | C18H16F3N3O3
reactant | 2-methylfuran | 0.16 mmol, 15 μL | CC=1OC=CC1 | C5H6O
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
catalyst | Gold (III) chloride | 0.012 mmol, 4 mg | [Au](Cl)(Cl)Cl
product | 9,9-Difluoro-5-(3-fluorophenyl)-1,3-dimethyl-10-(5-methylfuran-2-yl)-7,8,9,10-tetrahydropyrimido[4,5-a]indolizine-2,4(1H,3H)-dione | FC1(CCN2C(=C3C(=C2C1C=1OC(=CC1)C)N(C(N(C3=O)C)=O)C)C3=CC(=CC=C3)F)F | C23H20F3N3O3
